US05051420
S-[2-(diethylamino)ethyl]-S-[4-(1H-imidazol-1-yl)-1,2,5-thiadiazol-3-yl]-N-[(phenylmethoxy)carbonyl]sulfoximine
A mixture of S-[2-(diethylamino)ethyl]-S-[4-(1H-imidazol-1-yl)-1,2,5-thiadiazol-3-yl]sulfoximine (10 mmol), benzyl chloroformate (12 mmol) and potassium carbonate(32 mmol) in methylene chloride is stirred at ambient temperature for 5 hr.The mixture is filtered and the filtrate concentrated to obtain the productwhich is purified using standard laboratory procedures.

reactant | S-[2-(diethylamino)ethyl]-S-[4-(1H-imidazol-1-yl)-1,2,5-thiadiazol-3-yl]sulfoximine | 10 mmol | C(C)N(CCS(=O)(=N)C1=NSN=C1N1C=NC=C1)CC | C11H18N6OS2
reactant | benzyl chloroformate | 12 mmol | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | potassium carbonate | 32 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | S-[2-(diethylamino)ethyl]-S-[4-(1H-imidazol-1-yl)-1,2,5-thiadiazol-3-yl]-N-[(phenylmethoxy)carbonyl]sulfoximine | C(C)N(CCS(=O)(=NC(=O)OCC1=CC=CC=C1)C1=NSN=C1N1C=NC=C1)CC | C19H24N6O3S2
